US09145414B2
Iodoethane (0.80 mL) was added to a solution of (4S,5S)-tert-butyl 4-(hydroxymethyl)-2,2,5-trimethyloxazolidine-3-carboxylate (1.23 g), which can be synthesized by a method described in Bioorganic Chemistry 36 (2008) 4-15, in DMF (10 mL). Sodium hydride (60% in oil, 300 mg) was added under ice-cooling. Thereafter, the ice bath was removed, and the reaction solution was stirred at room temperature for 1 hour. Water and ethyl acetate were added to the reaction solution. After separation, the organic layer was washed with water twice. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain (4S,5S)-tert-butyl 4-(ethoxymethyl)-2,2,5-trimethyloxazolidine-3-carboxylate as light yellow amorphous.

reactant | Iodoethane | 0.80 mL | ICC | C2H5I
reactant | (4S,5S)-tert-butyl 4-(hydroxymethyl)-2,2,5-trimethyloxazolidine-3-carboxylate | 1.23 g | OC[C@@H]1N(C(O[C@H]1C)(C)C)C(=O)OC(C)(C)C | C12H23NO4
reactant | Sodium hydride | 300 mg | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (4S,5S)-tert-butyl 4-(ethoxymethyl)-2,2,5-trimethyloxazolidine-3-carboxylate | C(C)OC[C@@H]1N(C(O[C@H]1C)(C)C)C(=O)OC(C)(C)C | C14H27NO4
